US07297709B2
N-(3-methylphenyl)-N′-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea
A 0° C. mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (5.03 g, 23 mmol) and 1-isocyanato-3-methylbenzene (2.95 mL, 23 mmol) in THF (90 mL) was stirred at room temperature for 1 hour, concentrated, suspended in acetonitrile, and filtered. The filter cake was dried to provide 8.09 g of the desired product.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 23 mmol, 5.03 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | 1-isocyanato-3-methylbenzene | 23 mmol, 2.95 mL | N(=C=O)C1=CC(=CC=C1)C | C8H7NO
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | N-(3-methylphenyl)-N′-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | 8.09 g | CC=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H25BN2O3
